US07893004B2
Synthesis of 2-phenylbenzothiazole
2-Aminothiophenol (0.856 ml, 8 mmol), benzaldehyde (0.813 ml, 8 mmol), 1 g of an oxidation catalyst and 15 ml of xylene as solvent were charged into a 100 ml three-neck flask, and were stirred at 120° C. for 13 hours under an oxygen atmosphere. The reaction mixture was filtered through Celite, and then the Celite and the oxidation catalyst were washed with ethyl acetate. The filtrate was condensed with a rotary evaporator to yield a solid. The solid was recrystallized from diethyl ether. Resulting colorless crystals were then weighed and the yield thereof was defined as a reaction yield.

reactant | 2-Aminothiophenol | 8 mmol, 0.856 ml | NC1=C(C=CC=C1)S | C6H7NS
reactant | benzaldehyde | 8 mmol, 0.813 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-phenylbenzothiazole | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2 | C13H9NS
